US08084448B2
D. 5-[2-Hydroxy-4-(2-methyl-3-oxo-3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
A solution of 5-[2-benzyloxy-4-(2-methyl-3-oxo-3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt (15 mg) in 4 mL of EtOH/water (1:1) is hydrogenated over Degussa Pd/C (5 mg) at 1 atm for 15 min. The catalyst is filtered and the solvent is removed under reduced pressure. The residue is purified by reverse phase HPLC followed by lyophilization to give the title compound. (M−1)−=373. HPLC retention time=1.13 min (Method A).

reactant | 5-[2-benzyloxy-4-(2-methyl-3-oxo-3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one potassium salt | 15 mg | [K].C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC(C(C1=CC=CC=C1)=O)C)N1CC(NS1(=O)=O)=O
solvent | EtOH water | 4 mL | CCO.O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 5-[2-Hydroxy-4-(2-methyl-3-oxo-3-phenylpropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CC(C(C1=CC=CC=C1)=O)C)N1CC(NS1(=O)=O)=O | C18H18N2O5S
